US07126026B2
b) 4-Amino-3-bromophenylsulfur pentafluoride
4-Aminophenylsulfur pentafluoride (510 g. 2.327 mol) was dissolved in dichloromethane (7 l), the solution was cooled to 5° C. and, while stirring, 1,3-dibromo-5,5-dimethylimidazolidine-2,4-dione (326 g. 1.14 mol) was introduced in several portions with ice cooling so that the internal temperature was kept at 3–8° C. (approx. 1 h). The mixture was then left to stir and warm to room temperature without external cooling for 1 h. The mixture was filtered through a bed of silica gel (volume about 1 l) and washed with dichloromethane (5.5 l), and the filtrate was evaporated in vacuo. About 700 g of a red-brown crystalline mass was obtained and was dissolved in n-heptane (600 ml) at 60° C. and then crystallized in a refrigerator at 4° C. Filtration with suction resulted in 590 g (85%) of 4-amino-3-bromphenylsulfur pentafluoride as brownish crystals, m.p. 59–59.5° C.

reactant | 4-Aminophenylsulfur pentafluoride | 2.327 mol, 510 g | NC1=CC=C(C=C1)S(F)(F)(F)(F)F | C6H6F5NS
reactant | 1,3-dibromo-5,5-dimethylimidazolidine-2,4-dione | 1.14 mol, 326 g | BrN1C(N(C(C1(C)C)=O)Br)=O | C5H6Br2N2O2
solvent | dichloromethane | 7 l | ClCCl | CH2Cl2
solvent | n-heptane | 600 ml | CCCCCCC | C7H16
product | 4-Amino-3-bromophenylsulfur pentafluoride | NC1=C(C=C(C=C1)S(F)(F)(F)(F)F)Br | C6H5BrF5NS
